### ISSUE TITLE
Support splitting `l ↦ v` assumption

### ISSUE THREAD

**Issue by suhr** [larsk21/iris-lean#574]
Rocq Iris supports splitting it with `iDestruct "Hl" as "[Hl1 Hl2]".`. But in Iris-Lean, one right now has to use instFractionalPointsTo explicitly, like so:

```lean
theorem pt_split (l : Loc) (v : Val) :
    l ↦ v ⊣⊢ l ↦{.own (.half 1)} v ∗ l ↦{.own (.half 1)} v := by
  isplit
  · iintro Hl
    -- PORTING: iris-lean does not support splitting ↦ yet
    -- icases Hl with ⟨Hl1, Hl2⟩
    iapply instFractionalPointsTo.fractional
    simp only [Qp.half_add_half]
    iexact Hl
  · iintro Hl
    ihave H := instFractionalPointsTo.fractional $$ Hl
    simp only [Qp.half_add_half]
    iexact H
```

**Comment by lzy0505** [comment]
This is a typeclass problem. `(Φ : Qp → PROP)` and  `(q : Qp)` of `AsFractional` are mvars in the search.
